*
****************************************************************
* 1PS10SB82
* Nexperia
* Schottky barrier diode
* IFmax = 30mA
* VRmax = 15V
* VFmax = 700mV   @ IF = 30mA
* IRmax = 0,2µA   @ VR = 1V
* Package pinning does not match Spice model pinning.
* Package: DFN1006-2 (SOD882)
* Package Pin 1: Cathode
* Package Pin 2: Anode
* Extraction date (week/year): #
* Simulator: PSPICE
****************************************************************
* The resistor R1 does not reflect a physical device. 
* Instead it improves modeling in the reverse mode of operation.
*
.SUBCKT 1PS10SB82 1 2 
R1 1 2 3E+7 
D1 1 2 1PS10SB82
*
.MODEL 1PS10SB82 D 
+ IS = 1.042E-8 
+ N = 1.029 
+ BV = 17 
+ IBV = 0.001 
+ RS = 5.567 
+ CJO = 9.779E-13 
+ VJ = 0.2925 
+ M = 0.194 
+ FC = 0.5 
+ EG = 0.69 
+ XTI = 2 
.ENDS


****************************************************************
* 1PS66SB17
* NXP Semiconductors
* 40V, 30mA low Cd Schottky barrier diode
* VF = 470mV @ IF = 10mA
* Package pinning does not match Spice model pinning.
* Package: SOT323
*
* Package Pin 1 : Anode         D1 
* Package Pin 2 : Anode         D2
* Package Pin 3 : Anode         D3 
* Package Pin 4 : Cathode       D3 
* Package Pin 5 : Cathode       D2
* Package Pin 6 : Cathode       D1
* Simulator: SPICE2
****************************************************************
.SUBCKT 1PS66SB17 1 2 
* The Resistors do not reflect physical devices. 
* Instead they improve modeling in the reverse mode of operation.
R1 1 2 6E+07
D1 1 2 1PS66SB17
*
.MODEL 1PS66SB17 D 
+ IS = 1.419E-09 
+ N = 1.022 
+ BV = 6 
+ IBV = 2.45E-06 
+ RS = 5.112 
+ CJO = 7.662E-13
+ VJ = 0.1681 
+ M = 0.1995
+ FC = 0.5 
+ EG = 0.69 
+ XTI = 2 
.ENDS


****************************************************************
* 1PS66SB82
* NXP Semiconductors
* 15V, 30mA low Cd Schottky barrier diode
* VF = 700mV @ IF = 30mA
* Package pinning does not match Spice model pinning.
* Package: SOT666
*
* Package Pin 1 : Anode         D1 
* Package Pin 2 : Anode         D2
* Package Pin 3 : Anode         D3 
* Package Pin 4 : Cathode       D3 
* Package Pin 5 : Cathode       D2
* Package Pin 6 : Cathode       D1
* Simulator: SPICE2
****************************************************************
*#
.SUBCKT 1PS66SB82 1 2 
* The Resistors do not reflect physical devices. 
* Instead they improve modeling in the reverse mode of operation.
*
R1 1 2 3E+7
D1 1 2 1PS66SB82
*
.MODEL 1PS66SB82 D 
+ IS = 1.042E-8 
+ N = 1.029 
+ BV = 17 
+ IBV = 0.001 
+ RS = 5.567 
+ CJO = 9.779E-13 
+ VJ = 0.2925 
+ M = 0.194 
+ FC = 0.5 
+ EG = 0.69 
+ XTI = 2 
.ENDS


****************************************************************
* 1PS70SB82
* NXP Semiconductors
* Schottky barrier (double) diodes
* VF   = 700mV   @ IF = 30mA
* Package pinning does not match Spice model pinning.
* Package: SOT323
* Package Pin 1 : Anode                 
* Package Pin 2 : not connected
* Package Pin 3 : Cathode 
* Simulator: SPICE2
****************************************************************
*#
.SUBCKT 1PS70SB82 1 2 
* The resistors do not reflect physical devices. 
* Instead they improve modeling in the reverse mode of operation.
*
R1 1 2 3E+07
D1 1 2 1PS70SB82
*
.MODEL 1PS70SB82 D
+ IS = 1.042E-08
+ N = 1.029
+ BV = 20
+ IBV = 0.001
+ RS = 5.567
+ CJO = 1.029E-12
+ VJ = 0.2159
+ M = 0.1731
+ FC = 0
+ TT = 0
+ EG = 0.69
+ XTI = 2
.ENDS


****************************************************************
* 1PS76SB17
* NXP Semiconductors
* 4V, 30mA low Cd Schottky barrier diode
* IFSM = 600mA   @ tp > 10ms
* VF   = 470mV   @ IF = 10mA
* Package pinning does not match Spice model pinning.
* Package: SOT323
* Package Pin 1 : Cathode                     
* Package Pin 2 : Anode              
* Simulator: SPICE2
****************************************************************
*#
.SUBCKT 1PS76SB17 1 2
* The Resistor R1 does not reflect a physical device.
* Instead it improves modeling in the reverse mode of operation.
*
R1 1 2 6E+07 
D1 1 2 1PS76SB17
* 
.MODEL 1PS76SB17 D( 
+ IS = 1.419E-09 
+ N = 1.022 
+ BV = 6 
+ IBV = 2.45E-06 
+ RS = 5.112 
+ CJO = 7.867E-13 
+ VJ = 0.1043 
+ M = 0.1439 
+ FC = 0.5 
+ TT = 0 
+ EG = 0.69 
+ XTI = 2) 
.ENDS


****************************************************************
* 1PS79SB17
* NXP Semiconductors
* 4V, 30mA low Cd Schottky barrier diode
* IFSM = 600mA   @ tp > 10ms
* VF   = 470mV   @ IF = 10mA
* Package pinning does not match Spice model pinning.
* Package: SOD523
* Package Pin 1 : Cathode                     
* Package Pin 2 : Anode              
* Simulator: SPICE2
****************************************************************
*#
.SUBCKT 1PS79SB17 1 2
* The Resistor R1 does not reflect a physical device. 
* Instead it improves modeling in the reverse mode of operation.
*
R1 2 1 6E+07
D1 2 1 1PS79SB17
*
.MODEL 1PS79SB17 D
+ IS = 1.419E-9
+ N = 1.022
+ BV = 6
+ IBV = 2.45E-6 
+ RS = 5.112
+ CJO = 7.662E-13
+ VJ = 0.1681
+ M = 0.1995
+ FC = 0.5
+ EG = 0.69
+ XTI = 2
.ENDS


****************************************************************
* BAT17
* Nexperia
* Schottky barrier diode
* IFmax = 30mA
* VRmax = 4V
* VFmax = 600mV    @ IF = 10A
* IRmax = 1,25µA   @ VR = 3V
* Package pinning does not match Spice model pinning.
* Package: SOT23
* Package Pin 1: Anode
* Package Pin 2: Not Connected
* Package Pin 3: Cathode
* Extraction date (week/year): #
* Simulator: PSPICE
****************************************************************
* The resistor R1 does not reflect physical devices 
* but improve only modeling in the reverse mode of operation.
*
.SUBCKT BAT17 1 2
R1 1 2 6E+07
D1 1 2 BAT17
*
.MODEL BAT17 D 
+ IS = 1.419E-09 
+ N = 1.022 
+ BV = 6 
+ IBV = 2.45E-06 
+ RS = 5.112 
+ CJO = 7.867E-13 
+ VJ = 0.1043 
+ M = 0.1439 
+ FC = 0.5 
+ TT = 0 
+ EG = 0.69 
+ XTI = 2 
.ENDS


****************************************************************
* PMBD353
* NXP Semiconductors
* Schottky barrier double diode
* IFSM =       @ tp = 
* VF   = 600mV @ IF = 10mA
* Package pinning does not match Spice model pinning.
* Package: SOT23
* Package Pin 1: Cathode           D1
* Package Pin 2: Anode             D2
* Package Pin 3: Anode;Cathode     D1;D2
* Simulator: SPICE2 
****************************************************************
*#
.SUBCKT PMBD353 1 2
* The resistor R1 does not  reflect a physical device but improves 
* only modeling in the reverse mode of operation.
*
R1 1 2 6E+07
D1 1 2 PMBD353
*
.MODEL PMBD353 D 
+ IS = 1.419E-09 
+ N = 1.022 
+ BV = 6 
+ IBV = 2.45E-06 
+ RS = 5.112 
+ CJO = 7.867E-13 
+ VJ = 0.1043 
+ M = 0.1439 
+ FC = 0.5 
+ TT = 0 
+ EG = 0.69 
+ XTI = 2 
.ENDS


****************************************************************
* PMBD354
* Nexperia
* Schottky barrier double diode
* IFmax = 30mA
* VRmax = 4V
* VFmax = 600mV    @ IF = 10mA
* IRmax = 0,25µA   @ VR = 3V
* Package pinning does not match Spice model pinning.
* Package: SOT23
* Package Pin 1: Cathode 	   K1
* Package Pin 2: Anode   	   A2
* Package Pin 3: Common Connection A1,K2
* Extraction date (week/year): #
* Simulator: PSPICE
****************************************************************
* The resistor R1 does not reflect a physical device. 
* Instead it improves modeling in the reverse mode of operation.
*
.SUBCKT PMBD354 1 2
R1 1 2 6E+07
D1 1 2 PMBD354
*
.MODEL PMBD354 D 
+ IS = 1.419E-09 
+ N = 1.022 
+ BV = 6 
+ IBV = 2.45E-06 
+ RS = 5.112 
+ CJO = 7.867E-13 
+ VJ = 0.1043 
+ M = 0.1439 
+ FC = 0.5 
+ TT = 0 
+ EG = 0.69 
+ XTI = 2 
.ENDS

********************************************************************************


****************************************************************
* 1PS79SB70
* NXP Semiconductors
* General-purpose Schottky diodes
* IFSM = 100mA   @ tp > 10ms
* VF   = 410mV   @ IF = 1mA
* Package pinning does not match Spice model pinning.
* Package: SOD523
* Package Pin 1 : Cathode                     
* Package Pin 2 : Anode              
* Simulator: SPICE2
****************************************************************
*#
.SUBCKT 1PS79SB70 1 2
* The Resistor R1 does not reflect a physical device. 
* Instead it improves modeling in the reverse mode of operation.
*
R1 1 2 1.409E+09 
D1 1 2 1PS79SB70
*  
.MODEL 1PS79SB70 D(
+ IS = 3.22E-09 
+ N = 1.018 
+ BV = 77
+ IBV = 1.67E-07 
+ RS = 20.89 
+ CJO = 1.655E-12 
+ VJ = 0.349
+ M = 0.3583
+ FC = 0.5 
+ TT = 0 
+ EG = 0.69 
+ XTI = 2) 
.ENDS


****************************************************************
* PMEG2005CT
* Nexperia
* 500 mA low VF dual MEGA Schottky barrier rectifier
* IFmax = 500mA (average)
* VRmax = 20V
* VFmax = 390mV   @ IF = 500mA
* IRmax = 200µA   @ VR = 20V
* Package pinning does not match Spice model pinning.
* Package: SOT23
* Package Pin 1: Anode          D1
* Package Pin 2: Anode          D2
* Package Pin 3: Common Cathode
* Extraction date (week/year): #
* Simulator: SPICE2
****************************************************************
* The resistor R1 does not reflect a physical device. 
* Instead it improves modeling in the reverse mode of operation.
*
.SUBCKT PMEG2005CT 1 2
R1 1 2 1.287E+6 
D1 1 2 PMEG2005CT
*
.MODEL PMEG2005CT D 
+ IS = 3.5E-6
+ N = 0.9927
+ BV = 22
+ IBV = 0.001
+ RS = 0.08634
+ CJO = 1.2E-10
+ VJ = 0.3688
+ M = 0.506
+ FC = 0.5
+ EG = 0.69
+ XTI = 2
.ENDS
*
